US06054470
4-Carboxy-2-(4-methoxybenzyl)-5-methyl-3-pyridazinone.
To a stirred suspension of 4-cyano-2-(4-methoxybenzyl)-5-methyl-3-pyridazinone (0.51 g, 2.0 mmol) in water was added 5N aqueous KOH (2.61 mL). The mixture was heated under reflux for 24 hours. The mixture was cooled, filtered, and acidified with 10% HCl. The solid 4-carboxy-2-(4-methoxybenzyl)-5-methyl-3-pyridazinone was collected by filtration (0.54 g, 2.0 mmol, 100%).

reactant | 4-cyano-2-(4-methoxybenzyl)-5-methyl-3-pyridazinone | 2.0 mmol, 0.51 g | C(#N)C=1C(N(N=CC1C)CC1=CC=C(C=C1)OC)=O | C14H13N3O2
reactant | KOH | 5N, 2.61 mL | [OH-].[K+]
reactant | water | O | H2O
product | 4-Carboxy-2-(4-methoxybenzyl)-5-methyl-3-pyridazinone | C(=O)(O)C=1C(N(N=CC1C)CC1=CC=C(C=C1)OC)=O | C14H14N2O4
